US07910595B2
benzyl 1-hydroxy-2-phenylpropan-2-ylcarbamate
2-Amino-2-phenylpropan-1-ol hydrochloride (0.5 g, 2.7 mmol) was reacted with N-(benzyloxycarbonyloxy)-succinimide (0.73 g, 2.9 mmol) and triethylamine (0.82 mL, 5.9 mmol) in THF (25 mL) at 0° C. for 1.0 hours and then at room temperature for 1 hour. The reaction was concentrated and extracted with ethyl acetate (25 mL). The extract was washed with water (2×) and brine, dried over MgSO4, and concentrated to give the crude title compound and used without further purification.

reactant | 2-Amino-2-phenylpropan-1-ol hydrochloride | 2.7 mmol, 0.5 g | Cl.NC(CO)(C)C1=CC=CC=C1
reactant | N-(benzyloxycarbonyloxy)-succinimide | 2.9 mmol, 0.73 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | triethylamine | 5.9 mmol, 0.82 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | benzyl 1-hydroxy-2-phenylpropan-2-ylcarbamate | OCC(C)(C1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O | C17H19NO3
